US05208228
17-Ethyl-1-hydroxy-12-[2'-(4"-cyclopropanecarboxamido-3"-propyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
A solution of 32 mg of 17-ethyl-1-hydroxy-12-[2'-(4"-amino-3"-propyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in dry methylene chloride (0.4 ml) is cooled to 0° C. To this solution is added triethylamine (10 μl) followed by a solution of cyclopropane carbonyl chloride (5 mg) in methylene chloride (0.1 ml). The reaction mixture is stirred at 0° C. for 30 min. The reaction mixture is purified by preparative tlc on silica gel to give the title compound.

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-amino-3"-propyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 32 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N)OCCC)C)C)=O | C45H74N2O10
reactant | triethylamine | 10 μl | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carbonyl chloride | 5 mg | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 0.4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.1 ml | C(Cl)Cl | CH2Cl2
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-cyclopropanecarboxamido-3"-propyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)NC(=O)C2CC2)OCCC)C)C)=O | C49H78N2O11
